US08124762B2
Preparation of [4-(4′-diphenylaminobiphenyl-4-yl)pyrimidine-2-yl]dibenzylamine (compound 1-b)
4-(4′-Diphenylaminobiphenyl-4-yl)pyrimidine-2-amine (100 mg, 0.24 mmol) and sodium hydroxide (38 mg, 0.96 mmol) were added in dimethylsulfoxide (1 mL), and mixed at 100° C. for 30 minutes. This solution was added with a solution of benzyl bromide (63.1 μL, 0.53 mmol) in dimethylsulfoxide (1 mL) at 100° C. for 30 minutes, followed by stirring for 5 hours. This solution was cooled and added with water (100 mL) and a saturated saline solution, and then allowed to stand for 24 hours. The precipitated crystalline material was purified by column chromatogram (silica gel, hexane: EtOAc=8:1) to give the title compound.

reactant | 4-(4′-Diphenylaminobiphenyl-4-yl)pyrimidine-2-amine | 0.24 mmol, 100 mg | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NC=C1)N)C1=CC=CC=C1 | C28H22N4
reactant | sodium hydroxide | 0.96 mmol, 38 mg | [OH-].[Na+]
reactant | benzyl bromide | 0.53 mmol, 63.1 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 mL | O | H2O
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | [4-(4′-diphenylaminobiphenyl-4-yl)pyrimidine-2-yl]dibenzylamine | Yield 81% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C42H34N4
